US06982274B2
b; 3-(3-Fluorophenyl)-5-{[(3S)tetrahydro-3-furanyloxy]methyl}-1H-indazole
To a solution of 82 mg of 3-(3-fluorophenyl)-5-{[(3S)tetrahydro-3-furanyloxy]methyl}-1-trityl-1H-indazole in 1.6 ml methylene chloride were added 0.05 ml of triisopropylsilane and 0.4 ml of trifluoroacetic acid, and the mixture was stirred at room temperature for 20 minutes. To the reaction mixture was added ethyl acetate. The mixture was sequentially washed with saturated aqueous sodium hydrogencarbonate solution (×2) and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated. Then, the resulting crude product was purified and separated by silica gel column chromatography (ethyl acetate:toluene=1:4), to give 36 mg of the title compound as a viscous colorless oil.

reactant | 3-(3-fluorophenyl)-5-{[(3S)tetrahydro-3-furanyloxy]methyl}-1-trityl-1H-indazole | 82 mg | FC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)CO[C@@H]1COCC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C37H31FN2O2
reactant | triisopropylsilane | 0.05 ml | C(C)(C)[SiH](C(C)C)C(C)C | C9H22Si
reactant | trifluoroacetic acid | 0.4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 1.6 ml | C(Cl)Cl | CH2Cl2
product | 3-(3-Fluorophenyl)-5-{[(3S)tetrahydro-3-furanyloxy]methyl}-1H-indazole | 36 mg | FC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)CO[C@@H]1COCC1 | C18H17FN2O2
